US05047540
(110) Preparation of 3-(N-acetyl-3-iodopropylsulfonylamino)-1-hexadecyloxy-2-methoxymethylpropane IIk1'
To a cooled mixture of 0.76 g (1.3 mM) of 1-hexadecyloxy-3-(3-iodopropylsulfonylamino)-2-methoxymethylpropane IIk1 and 0.14 ml (2.0 mM) of acetyl chloride in 10 ml of dichloromethane at 0° C., is added 0.39 ml (2.2 mM) of diisopropylamine and the mixture is stirred at 0° C., for 3 hours. The mixture is poured into ice-water and the product is isolated by dichloromethane extraction. The dichloromethane layer is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated. The residue is purified by column silica gel chromatography using toluene-ethyl acetate (9:1) mixture and 0.81 g (99% yield) of the titled compound IIk1' is obtained.

reactant | 1-hexadecyloxy-3-(3-iodopropylsulfonylamino)-2-methoxymethylpropane | 1.3 mM, 0.76 g | C(CCCCCCCCCCCCCCC)OCC(CNS(=O)(=O)CCCI)COC | C24H50INO4S
reactant | acetyl chloride | 2.0 mM, 0.14 ml | C(C)(=O)Cl | C2H3ClO
reactant | diisopropylamine | 2.2 mM, 0.39 ml | C(C)(C)NC(C)C | C6H15N
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(N-acetyl-3-iodopropylsulfonylamino)-1-hexadecyloxy-2-methoxymethylpropane | 0.81 g, 99% yield | C(C)(=O)N(CC(COCCCCCCCCCCCCCCCC)COC)S(=O)(=O)CCCI | C26H52INO5S
